2181-08-05 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continued vanc/ceftriaxone
   Seen by neurosurgery; may attempt to culture CSF from shunt.  If
   needed, can remove VP shunt at bedside or in OR
   Consulted gen [**Doctor First Name 458**]; awaiting their recs
   Pain management with prn Morphine; waxing and [**Doctor Last Name 42**] mental status
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2181-8-5**] 12:58 AM
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-8-4**] 10:37 PM
   Morphine Sulfate - [**2181-8-5**] 02:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 91 (87 - 110) bpm
   BP: 156/90(106) {127/70(87) - 159/93(108)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    939 mL
                                                                    893 mL
   PO:
             TF:
   IVF:
                                                                    939 mL
                                                                    893 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    630 mL
   Urine:
                                                                    505 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
                                                                    100 mL
   Balance:
                                                                    354 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Gen: Occas moaning, difficult to understand pt
   Abd: tender, rebound
   Labs / Radiology
   143 K/uL
   10.5 g/dL
   96 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   31.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2181-8-4**]  09:36 PM
                             [**2181-8-5**]  05:27 AM
   WBC
   10.2
   11.1
   Hct
   32.1
   31.0
   Plt
   175
   143
   Cr
   0.6
   0.5
   Glucose
   100
   96
   Other labs: PT / PTT / INR:14.2/38.2/1.2, ALT / AST:39/21, Alk Phos / T
   Bili:41/0.5, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, LDH:230 IU/L, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   1. Abdominal abscess; peritonitic signs on exam
   - check cell count, gram stain, cultures from abscess drain; followup
   micro data here and from [**Hospital1 **]
   - empiric vancomycin and ceftriaxone at CSF-penetrating doses
   - neurosurgical consult; may culture shunt fluid and will send CSF for
   cell count, cultures
   - general surgery consult for abd abscess
   - review imaging with radiology here today
   - Gave CD to gen surgery for their review as well
   - prn morphine for pain
   2. Altered mental status: likely delirium from combination of pain
   medications, infection; no evidence of seizures
   - review brain imaging with neuroradiology in AM
   - serial neuro exams
   - treat pain as needed but avoid too many psychoactive medications
   - NPO for now pending improved mentation
   - cont home levetiracetam (switch to IV)
   3. Hypoxemia; carries diagnosis of
asthma
 though smoking history and
   late age of diagnosis makes COPD/emphysema more likely; altered mental
   status likely contributing to hypoventilation
   - cont tiotropium and fluticasone/salmeterol with prn nebulizers
   - prn morphine for splinting
   4. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - touch base with neuro-onc and/or oncology today; likely no need for
   formal consult; continue ongoing goals-of-care discussion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-08-05 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with NSC lung CA, brain mets, V-P shunt for increased ICP
   admitted to OSH for abdominal pain and concern for abscess.  Has had
   waxing and waining MS, tx for meningitis.  Had U/S guided drainage of
   fluid collection yesterday.  Transferred hear for concern for V-P shunt
   infection.  MS improved hear.  Neursurgery don't feel shunt was
   infected.  Gen surgery feel no surgery indicated currently, but
   conservative management with drain.
   24 Hour Events:
   Did well overnight.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2181-8-5**] 12:58 AM
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-8-4**] 10:37 PM
   Morphine Sulfate - [**2181-8-5**] 09:30 AM
   Other medications:
   albuterol
   spiriva
   celexa
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-5**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (87 - 110) bpm
   BP: 159/91(109) {127/70(87) - 166/96(112)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    939 mL
                                                                  1,070 mL
   PO:
             TF:
   IVF:
                                                                    939 mL
                                                                  1,070 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    810 mL
   Urine:
                                                                    505 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
                                                                    100 mL
   Balance:
                                                                    354 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory)
   Abdominal: No(t) Bowel sounds present, Tender: Right side with some
   rebound.
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   143 K/uL
   96 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   31.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2181-8-4**]  09:36 PM
                             [**2181-8-5**]  05:27 AM
   WBC
   10.2
   11.1
   Hct
   32.1
   31.0
   Plt
   175
   143
   Cr
   0.6
   0.5
   Glucose
   100
   96
   Other labs: PT / PTT / INR:14.2/38.2/1.2, ALT / AST:39/21, Alk Phos / T
   Bili:41/0.5, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, LDH:230 IU/L, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: asbcess gram stain:  ([**Hospital1 54**]) negative
   Imaging: CXR: RUL mass, Right hilar fullness, elevated R hemidiaphragm.
   Assessment and Plan
   Peritonitis:  Drained abdominal fluid collection.  Gen surgery
   following.  Follow up with [**Hospital1 **] to get culture results.  Add
   flagyl, and change CTX to normal dose.
   V-P Shunt:  Neurosurgery feels that its not infected.
   Pain: PRN morphine.
   Hypoxemia:  Poor inspirations due to peritoneal process - incentive
   spirometery at bedside.  Contiue PRN nebs
   NSCLungCA:  Notify oncology of his presense.
   ICU Care
   Nutrition:
   Comments: Start PO diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2181-08-06 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-8-6**] 12:30 AM
 BLOOD CULTURED - At [**2181-8-6**] 02:34 AM
 URINE CULTURE - At [**2181-8-6**] 04:34 AM
   [**Hospital1 954**] cultures inc ascites, blood, urine NGTD
   Gen surgery does not think peritonitis. Will not re-image unless
   becomes septic or exam worsens.
   Got delirious with morphine. Held morphine prns and gave tylenol liquir
   po instead for pain but patient unable to take with waxing/[**Doctor Last Name 42**] MS.
   [**Name13 (STitle) **] off more sedating meds to decrease delirium but did not get
   better. HR and BP increased. Gave 2mg morphine with no effect. Gave 1mg
   Haldol and patient slept with HR and BP decreased. Then became SOB.
   Wheezing. Given nebs X 3. ABG 7.36/55/88 on neb. CXR No change. ?asthma
   attack as patient has known asthma history. continued to be agitated
   even when SOB subsided so gave another 1mg Haldol.  Checked EKG and had
   ST with new Q waves and TWI in III. Concerned for PE so was intubated,
   sedated, and sent for CTPA which was negative for PE but did show
   severe emphysema, LUL spiculated lesion that is new and the old RUL
   lesions. Gave 60 IV Solumedrol.
   Temp 100.4 axillary. Cultured and given tylenol as tachycardic and
   hypertensive at time.
   ABx changed: Ceftriaxone -> ceftazidime for psa coverage. Started
   flagyl 500mg Q8H as well.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Vancomycin - [**2181-8-5**] 07:36 PM
   Ceftazidime - [**2181-8-5**] 10:00 PM
   Metronidazole - [**2181-8-6**] 04:35 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2181-8-5**] 07:00 PM
   Pantoprazole (Protonix) - [**2181-8-5**] 10:00 PM
   Haloperidol (Haldol) - [**2181-8-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-6**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 111 (87 - 132) bpm
   BP: 129/85(95) {125/85(95) - 191/105(126)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,530 mL
                                                                    230 mL
   PO:
             TF:
   IVF:
                                                                  2,530 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    420 mL
   Urine:
                                                                  1,390 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    890 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Other
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.38/55/194/32/6
   Ve: 8.9 L/min
   PaO2 / FiO2: 388
   Physical Examination
   GEN: Intubated/sedated
   HEENT: Tube in place. No drainage from VP shunt site
   LUNGS: Decreased breath sound bilaterally with no wheezing or crackles
   HEART: Irreg. irreg
   ABD: Pigtail in place. Unclear if tender as patient quite sedated.
   Labs / Radiology
   129 K/uL
   10.3 g/dL
   112 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   29.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2181-8-4**]  09:36 PM
                             [**2181-8-5**]  05:27 AM
                             [**2181-8-5**]  10:43 PM
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
   WBC
   10.2
   11.1
   7.7
   Hct
   32.1
   31.0
   29.5
   Plt
   175
   143
   129
   Cr
   0.6
   0.5
   0.5
   TCO2
   32
   34
   Glucose
   100
   96
   112
   Other labs: PT / PTT / INR:13.4/31.9/1.2, ALT / AST:25/17, Alk Phos / T
   Bili:37/0.9, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:230 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.4 mg/dL, PO4:1.9 mg/dL
   ASCITES
   ASCITES ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
   [1][**2181-8-4**] 09:36PM
                                    6900*
                                    1900*
                                     93*
                                      0
                                     7*
   EKG: ST with new Q wave in III and new TWI in III
   CXR: No interval change. No pulmonary edema. No PNA.
   CXR: ETT in place. OGT in place.
   CT Chest:
   exam slightly limited by resp. motion. no pe/dissection/pna. small b/l
   effusions with adjacent atelectasis. increase in size to primary RUL
   NSCLC
   lesion and scattered new nodules including 10mm LUL spiculated lesion.
   severe
   emphysema. secretions in distal trachea. ascites with pigtail drain in
   place.
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   1. Abdominal abscess; peritonitic signs on exam
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sgy
   -serial abdominal exams if able given sedation.
   -watch WBCs and BPS. If hypotensive may be septic and would need
   re-scan of abdomen.
   2. CNS infection around shunt
   -empiric vanco and ceftaz for CNS penetration
   - neurosurgical consult: no meningeal signs. Will only culture if shunt
   has purulent drainage on inspection.
   - review imaging with radiology here today
   - Gave CD to gen surgery for their review as well
   3. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Will try Fentanyl patch now while on drip so that when drip is weaned
   off hopefully will have coverage with patch by then
   - review brain imaging with neuroradiology in AM
   - serial neuro exams
   - cont home levetiracetam (switch to IV)
   4. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath; Now intubated s/p CTA
   of chest. All of the above could also be explained by aspiration when
   patient was sedated overnight which put greater stress on his already
   compromised lungs allowing him to become more obstructed.
   - No PE on CTPA but need to follow up final read
   - Started on solumedrol 60mg IV daily for likely COPD exacerbation
   per wife this has happened in the past and steroids helped however as
   likely just acute aspiration will d/c today
   - cont tiotropium and fluticasone/salmeterol with prn nebulizers when
   he is extubated
   - Attempt to wean off ventilator today
   4. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - touch base with neuro-onc and/or oncology today; likely no need for
   formal consult; continue ongoing goals-of-care discussion
   ICU Care
   Nutrition: NPO for now. If MS ok when gets extubated can have nl diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   18 Gauge - [**2181-8-6**] 01:05 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI QD
   VAP:  HOB at 30degrees, clorohexadine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Intubated -> can get extubated today after RSBT
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);

2181-08-06 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with h/o NSC lung CA, v-p shunt, with intrabdominal abscess.
   Was agitated overnight, received morphine and haldol ABG 7.36/55/88.
   Had CTA with no evidence of PE.  Started on solumedrol for COPD.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-8-6**] 12:30 AM
 BLOOD CULTURED - At [**2181-8-6**] 02:34 AM
 URINE CULTURE - At [**2181-8-6**] 04:34 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Vancomycin - [**2181-8-5**] 07:36 PM
   Metronidazole - [**2181-8-6**] 04:35 AM
   Ceftazidime - [**2181-8-6**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2181-8-5**] 07:00 PM
   Pantoprazole (Protonix) - [**2181-8-5**] 10:00 PM
   Haloperidol (Haldol) - [**2181-8-5**] 11:00 PM
   Other medications:
   Keppra
   ceftaz
   chlorhex
   medrol 60mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-6**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 113 (87 - 132) bpm
   BP: 129/81(92) {125/81(92) - 191/105(126)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,530 mL
                                                                    322 mL
   PO:
             TF:
   IVF:
                                                                  2,530 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    560 mL
   Urine:
                                                                  1,390 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    890 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Other
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.38/55/194/32/6
   Ve: 8.9 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   129 K/uL
   112 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.6 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   29.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2181-8-4**]  09:36 PM
                             [**2181-8-5**]  05:27 AM
                             [**2181-8-5**]  10:43 PM
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
   WBC
   10.2
   11.1
   7.7
   Hct
   32.1
   31.0
   29.5
   Plt
   175
   143
   129
   Cr
   0.6
   0.5
   0.5
   TCO2
   32
   34
   Glucose
   100
   96
   112
   Other labs: PT / PTT / INR:13.4/31.9/1.2, ALT / AST:25/17, Alk Phos / T
   Bili:37/0.9, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:230 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.4 mg/dL, PO4:1.9 mg/dL
   Imaging: Abscess fluid: 6900 WBC
   Assessment and Plan
   Hypoxemia, wheezing, respiratory failure:  Likely had aspiration event
   after sedation yesterday with underlying COPD.  Will stop medrol, but
   continue nebs.
   Will try to extubate today.
   Delirium:  Will try low dose fentanyl patch for pain, as he is getting
   altered MS [**First Name (Titles) **] [**Last Name (Titles) **] morphine.
   Lung CA:  CT with evidence of progression of lung CA since [**11-18**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   18 Gauge - [**2181-8-6**] 01:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2181-08-07 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT w and w/o contrast of the brain showed no signs of abscess or
   inflammation along VP shunt line. There appears to be a global white
   matter edema. ?If consistent with XRT
   Imaging showed increase in size of lung lesions
   OSH PET CT showed mets to the liver, adrenal, and L4 as well as
   increase in size of lung lesions consistent with imaging here.
   O/P oncologist actively involved
   [**Name (NI) **] wife still wants aggressive measures
   Neurosurgery considering taking out VP shunt and possibily replacing.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Vancomycin - [**2181-8-6**] 08:40 PM
   Ceftazidime - [**2181-8-6**] 10:36 PM
   Metronidazole - [**2181-8-7**] 04:06 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-7**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (86 - 120) bpm
   BP: 125/79(91) {113/79(89) - 151/98(111)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,562 mL
                                                                    291 mL
   PO:
             TF:
   IVF:
                                                                  1,562 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    245 mL
   Urine:
                                                                  1,260 mL
                                                                    245 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                   -228 mL
                                                                     46 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.42/50/104/34 lactate 0.8
   Ve: 7.4 L/min
   Physical Examination
   Gen: Intubated. Sedated
   HEENT: VP shunt without drainage ETT in place.
   LUNGS: Decreased breath sounds esp in expiration.
   HEART: Distant heart sounds
   ABD: Grimaces with deep palpation. Pig tail catheter in place.
   EXTREM: Warm
   NEURO: Does not follow commands. Does open eyes to name.
   Labs / Radiology
   122 K/uL
   10.0 g/dL
   124 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.2 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2181-8-4**]  09:36 PM
                             [**2181-8-5**]  05:27 AM
                             [**2181-8-5**]  10:43 PM
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
                             [**2181-8-6**]  10:00 AM
                             [**2181-8-6**]  04:00 PM
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
   WBC
   10.2
   11.1
   7.7
   5.3
   6.1
   Hct
   32.1
   31.0
   29.5
   28.5
   29.6
   Plt
   175
   143
   129
   115
   122
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   TCO2
   32
   34
   Glucose
   100
   96
   112
   146
   147
   129
   124
   Other labs: PT / PTT / INR:13.2/30.0/1.1, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Cultures here still pending. Cultures from [**Hospital **] Hospital NGTD
   CXR: ETT in place
   CT Head:
   Provisional Findings Impression: JKPe MON [**2181-8-6**] 11:10 PM
   No findings to suggest intracranial infection or VP shunt infection.
   Interval
   progression of vasogenic edema within the centrum semiovale bilaterally
   worrisome for metastatic disease; however, no enhancing lesions were
   identified. Further evaluation with MRI would be beneficial.
   CT Chest:
   IMPRESSION:
   1. Negative examination for pulmonary embolism.
   2. Increase in size of the previously described spiculated lesion in
   the
   right upper lobe, now extending to the pleura.
   3. New lung nodules as described above.
   4. Atelectasis of the right lower lobe, associated with effusion; no
   pleural
   nodule.
   5. Bronchomalacia of the right main bronchus and intermedius bronchus,
   evoked by expiration.
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   1. Abdominal abscess; peritonitic signs on exam.
   -Cultures from [**Hospital1 **] NGTD
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sgy
   -serial abdominal exams if able given sedation.
   -watch WBCs and BPS. If hypotensive may be septic and would need
   re-scan of abdomen.
   2. CNS infection around shunt
   -empiric vanco and ceftaz for CNS penetration
   - neurosurgical consult: no meningeal signs. Will consider pulling VP
   today
 on OR schedule
   - F/U final read
   -Blood cultures from OSH NGTD
   3. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Propofol instead for sedation so that can turn off and have serial
   neuron exams once done in OR
   - Pt fully sedated for possible surgery today
   - serial neuro exams
   - cont home levetiracetam (switch to IV)
   4. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath; Now intubated s/p CTA
   of chest. All of the above could also be explained by aspiration when
   patient was sedated overnight which put greater stress on his already
   compromised lungs allowing him to become more obstructed.
   - No PE on CTPA but need to follow up final read
   - Started on solumedrol 60mg IV daily for likely COPD exacerbation
   per wife this has happened in the past and steroids helped however as
   likely just acute aspiration will d/c today
   - cont tiotropium and fluticasone/salmeterol with prn nebulizers when
   he is extubated
   - Attempt to wean off ventilator today if not going to surgery
   4. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - Pt seems to be progressing. Unclear how this informs management for
   wife
   - Dr. [**First Name (STitle) 4752**] is O/P oncologist. Aware of patient
s status. Will keep up
   to date.
   ICU Care
   Nutrition:
   NPO pending surgery
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   20 Gauge - [**2181-8-6**] 01:43 PM
   18 Gauge - [**2181-8-6**] 08:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  PPI QD
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending Neurosurgery today

2181-08-07 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo with metastatic lung CA.
   24 Hour Events:
   CT head:  No evidence of brain abscess.
   OSH Pet scan: showing liver, spine mets, and enlarged lung mets.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-8-5**] 02:17 AM
   Metronidazole - [**2181-8-7**] 04:06 AM
   Ceftazidime - [**2181-8-7**] 06:05 AM
   Vancomycin - [**2181-8-7**] 08:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2181-8-7**] 08:45 AM
   Midazolam (Versed) - [**2181-8-7**] 08:45 AM
   Other medications:
   keppra
   protonix
   vanco
   flagyl
   ceftaz
   chlorhex
   atroven
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-7**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 86 (86 - 120) bpm
   BP: 128/80(92) {113/79(90) - 151/98(111)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,562 mL
                                                                    623 mL
   PO:
             TF:
   IVF:
                                                                  1,562 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    408 mL
   Urine:
                                                                  1,260 mL
                                                                    408 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                   -228 mL
                                                                    215 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: 7.42/50/104/30/6
   Ve: 11.3 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   122 K/uL
   140
   0.4 mg/dL
   30 mEq/L
   4.2 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   29.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2181-8-5**]  05:27 AM
                             [**2181-8-5**]  10:43 PM
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
                             [**2181-8-6**]  10:00 AM
                             [**2181-8-6**]  04:00 PM
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
   WBC
   11.1
   7.7
   5.3
   6.1
   Hct
   31.0
   29.5
   28.5
   29.6
   Plt
   143
   129
   115
   122
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   32
   34
   34
   Glucose
   96
   112
   146
   147
   129
   124
   140
   Other labs: PT / PTT / INR:13.2/30.0/1.1, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CT chest:  Negative for PE, increased size of lesions on
   right, new lesions on left.
   Assessment and Plan
   Respiratory failure:  Main barrier to extubation is altered
   MS/delirium.  Will try and shut off sedation and extubate after OR.
   Intraabdominal abscess:  drain in.  Cultures are thus negative.
   V-P shunt:  Possible OR today.
   delirium:  prior hx of brain XRT and CT changes may be playing a role.
   Will try to minimize sedationl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   20 Gauge - [**2181-8-6**] 01:43 PM
   18 Gauge - [**2181-8-6**] 08:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-08-08 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Went to OR last evening for VP shunt removal
   - Post op head CT-  prelim read: Trace amount of intraventricular
   hemorrhage noted dependently within the left occipital [**Doctor Last Name 1347**], otherwise
   no significant interval change status post shunt removal.
   - One blood culture bottle grew GPC in pairs and clusters.  No other
   growth.  Possible contamination.
   - Following OR, changed sedation to propofol.  Seemed comfortable
   overnight, however restless this am.
   - Goal of extubation today
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2181-8-7**] 09:45 PM
   Ceftazidime - [**2181-8-7**] 10:18 PM
   Metronidazole - [**2181-8-8**] 04:17 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2181-8-7**] 08:45 AM
   Fentanyl - [**2181-8-7**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-8**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 101 (79 - 101) bpm
   BP: 139/91(103) {118/80(90) - 151/102(109)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,365 mL
                                                                    243 mL
   PO:
             TF:
   IVF:
                                                                  1,335 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,941 mL
                                                                    335 mL
   Urine:
                                                                  1,941 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -576 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/52/124
   Ve: 8.3 L/min
   PaO2 / FiO2: 248
   Physical Examination
   GEN: Lying in bed. Intubated. Sedated.
   HEENT: Bandage clean, dry, in tact. PERRL. Tube in place.
   LUNGS: Decreased air movement worse on left than right.
   HEART: Tachycardic
   ABD: Soft. TTP (patient grimaces with deep palpation)
   NECK: Soft and supple
   EXTREM: Warm
   NEURO: Opens eyes to name. Moves all four extremities.
   Labs / Radiology
   121 K/uL
   10.5 g/dL
   83 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.0 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   30.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
                             [**2181-8-6**]  10:00 AM
                             [**2181-8-6**]  04:00 PM
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
   WBC
   7.7
   5.3
   6.1
   7.1
   Hct
   29.5
   28.5
   29.6
   30.5
   Plt
   129
   115
   122
   121
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   34
   34
   36
   Glucose
   112
   146
   147
   129
   124
   140
   83
   Other labs: PT / PTT / INR:13.2/30.0/1.1, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Blood cultures: One bottle with GPC (Anaerobic)
   CXR [**8-7**]:
   Small right pleural effusion is larger. Left lung clear. Right apical
   lung
   mass noted.
   Head CT [**8-8**]:  PRELIM READ
   Trace amount of intraventricular hemorrhage noted dependently within
   the left
   occipital [**Doctor Last Name 1347**], otherwise no significant interval change status post
   shunt
   removal.
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   1. Abdominal abscess; peritonitic signs on exam.
   -Cultures from [**Hospital1 **] NGTD
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sgy
   -serial abdominal exams if able given sedation.
   -watch WBCs and BPS. If hypotensive may be septic and would need
   re-scan of abdomen.
   2. CNS infection around shunt
   -empiric vanco and ceftaz for CNS penetration
   - neurosurgical consult: no meningeal signs.  Pulled VP shunt last
   evening. Neruosgy will follow up with serial exams and culture data.
   - Continue abx
   - F/U final read of post op head CT
   - F/up cultures of VP shunt tip
   -Blood cultures from OSH NGTD
   3. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Propofol instead for sedation so that can turn off and have serial
   neuron exams once done in OR.  With goal of extubation
   - serial neuro exams
   - cont home levetiracetam (switch to IV)
   -Will place fentanyl patch for pain control in hope that it will help
   with ms [**First Name (Titles) **] [**Last Name (Titles) 4787**].
   - Will avoid morphine as seemed to exacerbate delirium
   - [**Month (only) 60**] consider haldol prn for agitation if pain controlled and still
   delirious
   4. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath; Now intubated s/p CTA
   of chest. All of the above could also be explained by aspiration when
   patient was sedated overnight which put greater stress on his already
   compromised lungs allowing him to become more obstructed.
   - No PE on CTPA but need to follow up final read
   - cont tiotropium and fluticasone/salmeterol with prn nebulizers when
   he is extubated
   - Attempt to wean off ventilator today
   4. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - Pt seems to be progressing. Wife is aware of progression of disease
   but believes he will receive treatment for it and wants to get him back
   to his pre-admission status.
   - Dr. [**First Name (STitle) 4752**] is O/P oncologist. Aware of patient
s status. Will keep up
   to date.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   20 Gauge - [**2181-8-6**] 01:43 PM
   22 Gauge - [**2181-8-7**] 10:19 PM
   Prophylaxis:
   DVT:  SC heparin and boots
   Stress ulcer: PPI QD
   VAP:  HOB at 30degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until extubated and stable

2181-08-08 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had shunt removed yesterday.  Continued fevers.  On CPAP this AM
   24 Hour Events:
 BLOOD CULTURED - At [**2181-8-7**] 04:05 PM
 OR SENT - At [**2181-8-7**] 07:25 PM
 OR RECEIVED - At [**2181-8-7**] 09:10 PM
 BLOOD CULTURED - At [**2181-8-8**] 03:30 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2181-8-7**] 10:18 PM
   Metronidazole - [**2181-8-8**] 04:17 AM
   Vancomycin - [**2181-8-8**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   keppra
   protonix
   vanco
   flagyl
   chlorhex
   atrovent
   albuterol
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-8**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 101 (79 - 101) bpm
   BP: 139/91(103) {118/80(90) - 151/102(109)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,365 mL
                                                                    602 mL
   PO:
             TF:
   IVF:
                                                                  1,335 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,941 mL
                                                                    615 mL
   Urine:
                                                                  1,941 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -576 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   PS : 12 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.44/52/124/32/10
   Ve: 9.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Lungs: No wheezing
   CV: regular
   Abdomen: diffusely tender
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Opens eyes to voice.  Does not follow commands.
   Labs / Radiology
   10.5 g/dL
   121 K/uL
   83 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.0 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   30.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2181-8-6**]  02:32 AM
                             [**2181-8-6**]  05:19 AM
                             [**2181-8-6**]  10:00 AM
                             [**2181-8-6**]  04:00 PM
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
   WBC
   7.7
   5.3
   6.1
   7.1
   Hct
   29.5
   28.5
   29.6
   30.5
   Plt
   129
   115
   122
   121
   Cr
   0.5
   0.5
   0.4
   0.4
   TCO2
   34
   34
   36
   Glucose
   112
   146
   147
   129
   124
   140
   83
   Other labs: PT / PTT / INR:13.2/30.0/1.1, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Imaging: Head CT:  Small residual amount  of blood.
   CXR:  RLL effusion/infiltrate
   Assessment and Plan
   Respiratory failure:  COPD and delirium.  Agitation is likely to be a
   barrier to extubation.  Will try and drop down PSV.
   Delirium:  On propofol currently.
   Pain:  Fentanyl 12.5mcg/min.  Low dose IV dilaudid for pain.
   V-P Shunt removed: Follow up cx.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2181-8-4**] 08:06 PM
   20 Gauge - [**2181-8-6**] 01:43 PM
   22 Gauge - [**2181-8-7**] 10:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-08-09 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-8-8**] 03:03 PM
 INVASIVE VENTILATION - START [**2181-8-8**] 04:14 PM
 INVASIVE VENTILATION - STOP [**2181-8-8**] 04:18 PM
   Extubated. Stable on shovel mask o/n.
   Got 4mg Morphine. Fell asleep on shovel. Woke with SOB. RR 27. Given
   nebs. ABG: 7.38/56/91 on neb. CXR RLL more opacification than previous.
   Given albuterol and atrovent nebs X3.
   Was better for a few hours then continued to have increased work of
   breathing on shovel mask. Tachy to 110s.
   Around 7am added CPAP and he seemed to calm down. Still complains of
   abd pain
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2181-8-8**] 08:00 PM
   Metronidazole - [**2181-8-9**] 04:51 AM
   Ceftazidime - [**2181-8-9**] 05:51 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-8-9**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-9**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 118 (79 - 118) bpm
   BP: 162/98(112) {128/80(93) - 176/98(115)} mmHg
   RR: 27 (19 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.6 kg (admission): 73.7 kg
             Total In:
                                                                  1,689 mL
                                                                    228 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,449 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    370 mL
   Urine:
                                                                  1,490 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                    139 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 91
   SpO2: 94%
   ABG: 7.38/56/91/34/5
   Ve: 10.3 L/min
   PaO2 / FiO2: 130
   Physical Examination
   GEN: Dyspneic, flushed
   HEENT: MMM, head wounds and surgical dressing, no signs of edema,
   hematoma ,or infection
   CV: RRR, tachycardia, no MRG
   PULM: PreCPAP: poor airflow with prolonged exp and some wheezes bilat.
   On CPAP better airflow without wheezes
   ABD: BS+, tender, nondistended
   LIMBS: clubbing, no edema
   Labs / Radiology
   118 K/uL
   11.0 g/dL
   89 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   143 mEq/L
   32.1 %
   9.7 K/uL
        [image002.jpg]
   BLOOD GASES
                                    Type
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   [1][**2181-8-9**] 12:14AM
                                     ART
                                     91
                                     56*
                                    7.38
                                     34*
                                      5
   [2][**2181-8-8**] 03:20PM
                                     ART
                                    115*
                                     56*
                                    7.40
                                     36*
                                      8
   [3][**2181-8-8**] 12:05AM
                                     ART
                                    124*
                                     52*
                                    7.44
                                     36*
                                     10
                             [**2181-8-6**]  04:00 PM
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
                             [**2181-8-8**]  03:20 PM
                             [**2181-8-9**]  12:14 AM
                             [**2181-8-9**]  04:00 AM
   WBC
   5.3
   6.1
   7.1
   9.7
   Hct
   28.5
   29.6
   30.5
   32.1
   Plt
   115
   122
   121
   118
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   34
   36
   36
   34
   Glucose
   147
   129
   124
   140
   83
   89
   Other labs: PT / PTT / INR:14.2/27.9/1.2, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   4. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath; Now intubated s/p CTA
   of chest. All of the above could also be explained by aspiration when
   patient was sedated overnight which put greater stress on his already
   compromised lungs allowing him to become more obstructed.
   - No PE on CTPA but need to follow up final read
   - cont tiotropium and fluticasone/salmeterol with prn nebulizers when
   he is extubated
   - Weaned off respiratory on [**2181-8-8**]. Required CPAP
   1. Abdominal abscess; peritonitic signs on exam.
   -Cultures from [**Hospital1 **] NGTD
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sgy
   -serial abdominal exams if able given sedation.
   -watch WBCs and BPS. If hypotensive may be septic and would need
   re-scan of abdomen.
   2. CNS infection around shunt
   -empiric vanco and ceftaz for CNS penetration
   - neurosurgical consult: no meningeal signs.  Pulled VP shunt last
   evening. Neruosgy will follow up with serial exams and culture data.
   - Continue abx
   - F/U final read of post op head CT
   - F/up cultures of VP shunt tip
   -Blood cultures from OSH NGTD
   3. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Propofol instead for sedation so that can turn off and have serial
   neuron exams once done in OR.  With goal of extubation
   - serial neuro exams
   - cont home levetiracetam (switch to IV)
   -Will place fentanyl patch for pain control in hope that it will help
   with ms [**First Name (Titles) **] [**Last Name (Titles) 4787**].
   - Will avoid morphine as seemed to exacerbate delirium
   - [**Month (only) 60**] consider fentanyl prn for agitation if still delirious
   4. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - Pt seems to be progressing. Wife is aware of progression of disease
   but believes he will receive treatment for it and wants to get him back
   to his pre-admission status.
   - Dr. [**First Name (STitle) 4752**] is O/P oncologist. Aware of patient
s status. Will keep up
   to date.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-8-7**] 10:19 PM
   20 Gauge - [**2181-8-8**] 11:11 PM
   Prophylaxis:
   DVT:  boots, heparin sc
   Stress ulcer:  PPI qd
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);

2181-08-09 12:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday.  But was tachycardic and SOB.  Given
   albut/atroven, morphine.  With some response.  This AM more SOB.
   Placed on NIV PSV 8/5 with improved.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-8-8**] 03:03 PM
 INVASIVE VENTILATION - START [**2181-8-8**] 04:14 PM
 INVASIVE VENTILATION - STOP [**2181-8-8**] 04:18 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2181-8-9**] 05:51 AM
   Vancomycin - [**2181-8-9**] 08:30 AM
   Metronidazole - [**2181-8-9**] 11:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-8-9**] 12:15 AM
   Morphine Sulfate - [**2181-8-9**] 07:15 AM
   Other medications:
   fentanyl patch
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-9**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 96 (81 - 118) bpm
   BP: 149/92(105) {128/80(92) - 176/99(115)} mmHg
   RR: 14 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 73.7 kg
             Total In:
                                                                  1,689 mL
                                                                    681 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,449 mL
                                                                    681 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    595 mL
   Urine:
                                                                  1,490 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                    139 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 768 (768 - 862) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 91
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.38/55/95.[**Numeric Identifier 96**]/34/5
   Ve: 6.9 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moves all 4
   extremities
   Labs / Radiology
   11.0 g/dL
   118 K/uL
   89 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.6 mEq/L
   15 mg/dL
   104 mEq/L
   143 mEq/L
   32.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2181-8-6**]  08:40 PM
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
                             [**2181-8-8**]  03:20 PM
                             [**2181-8-9**]  12:14 AM
                             [**2181-8-9**]  04:00 AM
                             [**2181-8-9**]  08:48 AM
   WBC
   5.3
   6.1
   7.1
   9.7
   Hct
   28.5
   29.6
   30.5
   32.1
   Plt
   115
   122
   121
   118
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   34
   36
   36
   34
   34
   Glucose
   129
   124
   140
   83
   89
   Other labs: PT / PTT / INR:14.2/27.9/1.2, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR:  increasing RLL infiltrate vs effusion
   Assessment and Plan
   Respiratory failure:  Difficult night, but much better on bipap
   currently.  CXR without evidence of fluid overload, also has COPD.
   Will start solumedrol
   to treat COPD.  Will also try some diuretics.
   Abdominal abscess:  Cultures all negative (although drawn after onset
   of antibiotics).  Continue antibiotics, will discuss with surgery how
   long antibiotics should
   continue.  Will check with [**Hospital1 **] if cultures there are also
   negative.
   Lung CA:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-8-7**] 10:19 PM
   20 Gauge - [**2181-8-8**] 11:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-08-10 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2181-8-9**] 02:40 PM
 NON-INVASIVE VENTILATION - START [**2181-8-9**] 10:02 PM
 NON-INVASIVE VENTILATION - STOP [**2181-8-10**] 05:04 AM
   Tolerating shovel mask and BiPAP well
   All Cx negative here and at OSH except wound culture with positive Gram
   stain so far with GPC in clusters and GP rods
   S: Feels ok. Breathing ok although doesn
t like the mask. No pain in
   abd.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2181-8-9**] 08:05 PM
   Metronidazole - [**2181-8-10**] 04:17 AM
   Ceftazidime - [**2181-8-10**] 06:01 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-8-9**] 07:15 AM
   Heparin Sodium (Prophylaxis) - [**2181-8-10**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-10**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 99 (85 - 115) bpm
   BP: 141/85(98) {122/66(80) - 162/102(115)} mmHg
   RR: 25 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 73.7 kg
             Total In:
                                                                  1,300 mL
                                                                    219 mL
   PO:
             TF:
   IVF:
                                                                  1,300 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    172 mL
   Urine:
                                                                  1,670 mL
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 482 (482 - 862) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.38/55/95.[**Numeric Identifier 96**]/35/5
   Ve: 5.2 L/min
   PaO2 / FiO2: 192
   Physical Examination
   GEN: NAD
   HEENT: Sutures and incison C/D/I MMM
   LUNGS: Crackles at bases
   HEART: RRR
   ABD: Soft. NT/ND No peritoneal signs
   NEURO: Alert and oriented X3.
   Labs / Radiology
   122 K/uL
   10.3 g/dL
   120 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.6 mEq/L
   21 mg/dL
   102 mEq/L
   142 mEq/L
   29.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
                             [**2181-8-8**]  03:20 PM
                             [**2181-8-9**]  12:14 AM
                             [**2181-8-9**]  04:00 AM
                             [**2181-8-9**]  08:48 AM
                             [**2181-8-10**]  03:07 AM
   WBC
   6.1
   7.1
   9.7
   8.8
   Hct
   29.6
   30.5
   32.1
   29.4
   Plt
   122
   121
   118
   122
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   36
   36
   34
   34
   Glucose
   124
   140
   83
   89
   120
   Other labs: PT / PTT / INR:14.2/27.9/1.2, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   #. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath;
   - No PE on CTPA
   - Weaned off respiratory on [**2181-8-8**]. Required BiPAP but now stable on
   shovel mask
   - 60mg solumedrol q8 for 3 days then 30mg Q8 for 2 days then off.
   - lasix to pull off 1L fluids but only -300mL yesterday. Repeat today
   to pull off more fluid as lungs still a bit wet.
   #. Abdominal abscess; no peritonitic signs on exam.
   -Cultures from [**Hospital1 **] NGTD
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens. Will continue until culture
   results from VP shunt tip speciated as may need anaerobic coverage for
   that.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sgy
   #. CNS infection around shunt with GPCs and GNRs on culture of tip of
   VP shunt
   -vanco, flagyl and ceftaz
   - neurosurgical consult: no meningeal signs.  Pulled VP shunt. Neruosgy
   will follow up with serial exams and culture data.
   - Continue abx
   #. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Now more or less at baseline
   - cont home levetiracetam (switch to PO)
   -Fentanyl patch for pain control in hope that it will help with pain
   control and MS
   - Will avoid morphine as seemed to exacerbate delirium
 dilaudid prn
   if needed for pain although now no pain
   - Will avoid BZs since these also seem to aggravate his MS changes
   #. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - Pt seems to be progressing. Wife is aware of progression of disease
   but believes he will receive treatment for it and wants to get him back
   to his pre-admission status.
   - Dr. [**First Name (STitle) 4752**] is O/P oncologist. Aware of patient
s status. Will keep up
   to date.
   ICU Care
   Nutrition: reg diet
   Glycemic Control:  Not diabetic
   Lines:
   20 Gauge - [**2181-8-10**] 03:30 AM
   Prophylaxis:
   DVT:  SC Heparin and Boots
   Stress ulcer:  PPI QD
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possibly to floor today if stable off bipap

2181-08-10 12:45:00 Physician Attending Progress Note
Chief Complaint: Delta MS, respiratory failure, abdmonal abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Stable off vent, but was on bipap overnight.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2181-8-9**] 02:40 PM
 NON-INVASIVE VENTILATION - START [**2181-8-9**] 10:02 PM
 NON-INVASIVE VENTILATION - STOP [**2181-8-10**] 05:04 AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftazidime - [**2181-8-10**] 06:01 AM
   Vancomycin - [**2181-8-10**] 08:40 AM
   Metronidazole - [**2181-8-10**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   keppra
   colace
   fentanyl patch
   atrovent
   medrol 60mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-10**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 94 (79 - 113) bpm
   BP: 133/71(85) {122/66(80) - 149/102(111)} mmHg
   RR: 24 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 73.7 kg
             Total In:
                                                                  1,300 mL
                                                                    695 mL
   PO:
             TF:
   IVF:
                                                                  1,300 mL
                                                                    695 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    607 mL
   Urine:
                                                                  1,670 mL
                                                                    607 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 611 (482 - 611) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 94%
   ABG: ///35/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 2.5, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   122 K/uL
   120 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.6 mEq/L
   21 mg/dL
   102 mEq/L
   142 mEq/L
   29.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2181-8-7**]  02:52 AM
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
                             [**2181-8-8**]  03:20 PM
                             [**2181-8-9**]  12:14 AM
                             [**2181-8-9**]  04:00 AM
                             [**2181-8-9**]  08:48 AM
                             [**2181-8-10**]  03:07 AM
   WBC
   6.1
   7.1
   9.7
   8.8
   Hct
   29.6
   30.5
   32.1
   29.4
   Plt
   122
   121
   118
   122
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   36
   36
   34
   34
   Glucose
   124
   140
   83
   89
   120
   Other labs: PT / PTT / INR:14.2/27.9/1.2, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:173 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: V-P shunt with polymicrobial flora
   Imaging: CXR:  R effusion
   Assessment and Plan
   Respiratory distress:  improved.  Will try and keep off bipap today.
           Severe COPD:  short course of steroids - 3 days at current
   dose.  2 days at half, then off.
           Also diuresis as he has crackels
   V-P shunt:  Polymicrobial growth.  MS much improved.  Continue
   Vanco/Ceftaz/flagyl
   abdominal abcess:  much improved abdominal exam.
   Lung Ca.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-8-10**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2181-08-11 06:01:00 Physician Resident Progress Note
24 Hour Events:
 PICC LINE - START [**2181-8-10**] 05:00 PM
   -VP shunt cultures: lactobacillus x 1; coag neg staph x 1
   -SSI started given solumedrol
   -Rec
d one dose of IV lasix with improved breathing (lasix na
   -On face tent 50% and NC- tolerating well
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2181-8-10**] 12:00 PM
   Vancomycin - [**2181-8-10**] 08:24 PM
   Ceftazidime - [**2181-8-10**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-8-10**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-8-11**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 70 (69 - 105) bpm
   BP: 141/79(95) {129/57(78) - 156/95(110)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 73.7 kg
             Total In:
                                                                  1,102 mL
                                                                     44 mL
   PO:
                                                                     60 mL
                                                                     15 mL
   TF:
   IVF:
                                                                  1,042 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    235 mL
   Urine:
                                                                  1,245 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 611 (611 - 611) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: ///36/
   Ve: 13.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   9.4 g/dL
   174 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.2 mEq/L
   22 mg/dL
   103 mEq/L
   142 mEq/L
   27.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2181-8-7**]  06:29 AM
                             [**2181-8-7**]  10:00 AM
                             [**2181-8-8**]  12:05 AM
                             [**2181-8-8**]  03:07 AM
                             [**2181-8-8**]  03:20 PM
                             [**2181-8-9**]  12:14 AM
                             [**2181-8-9**]  04:00 AM
                             [**2181-8-9**]  08:48 AM
                             [**2181-8-10**]  03:07 AM
                             [**2181-8-11**]  02:40 AM
   WBC
   7.1
   9.7
   8.8
   10.8
   Hct
   30.5
   32.1
   29.4
   27.6
   Plt
   121
   118
   122
   127
   Cr
   0.4
   0.4
   0.4
   0.5
   TCO2
   34
   36
   36
   34
   34
   Glucose
   140
   83
   89
   120
   174
   Other labs: PT / PTT / INR:14.2/27.9/1.2, ALT / AST:20/16, Alk Phos / T
   Bili:30/0.4, Differential-Neuts:93.9 %, Lymph:3.9 %, Mono:1.9 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:173 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4663**] is a 63 year old man with metastatic non-small cell lung
   cancer with known brain mets and VP shunt, now transferred for
   neurosurgical/surgical evaluation given the concern for intra-abdominal
   abscess and VP shunt infection.
   #. Hypoxemia/wheezing; carries diagnosis of
asthma
 though smoking
   history and late age of diagnosis makes COPD/emphysema more likely
   c/w findings on CT scan which showed severe emphysema and wheezing on
   exam when patient became acutely short of breath;
   - No PE on CTPA
   - Weaned off respiratory on [**2181-8-8**]. Required BiPAP but now stable on
   shovel mask
   - 60mg solumedrol q8 for 3 days then 30mg Q8 for 2 days then off.
   - lasix to pull off 1L fluids but only -300mL yesterday. Repeat today
   to pull off more fluid as lungs still a bit wet.
   #. Abdominal abscess; no peritonitic signs on exam.
   -Cultures from [**Hospital1 **] NGTD
   - Ascites fluid here with WBCs >250. Gram stain negative. On Ceftaz as
   well as flagyl to cover bowel pathogens. Will continue until culture
   results from VP shunt tip speciated as may need anaerobic coverage for
   that.
   - Gen sgy does not feel has acute abdomen or reason to operate at this
   point. If develops peritoneal signs ->rescan and call sg
   #. CNS infection around shunt with GPCs and GNRs on culture of tip of
   VP shunt
   -vanco, flagyl and ceftaz
   - neurosurgical consult: no meningeal signs.  Pulled VP shunt. Neruosgy
   will follow up with serial exams and culture data.
   - Continue abx
   #. Altered mental status before he was intubated: likely delirium from
   combination of pain medications, infection, or pain itself; no evidence
   of seizures. Will be difficult to balance pain meds and delirium
   because patient most likely is in pain but may be delirious from the
   meds.
   - Now more or less at baseline
   - cont home levetiracetam (switch to PO)
   -Fentanyl patch for pain control in hope that it will help with pain
   control and MS
   - Will avoid morphine as seemed to exacerbate delirium
 dilaudid prn
   if needed for pain although now no pain
   - Will avoid BZs since these also seem to aggravate his MS changes
   #. Non-small cell lung cancer: received bevacizumab approx 2 weeks ago
   - Pt seems to be progressing. Wife is aware of progression of disease
   but believes he will receive treatment for it and wants to get him back
   to his pre-admission status.
   - Dr. [**First Name (STitle) 4752**] is O/P oncologist. Aware of patient
s status. Will keep up
   to date.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-8-10**] 03:30 AM
   PICC Line - [**2181-8-10**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: